US05352701
14.8g of aluminum chloride and 5g of veratrole are added to a solution of 7.34g of isophthalic acid monomethyl ester chloride in 160 ml of dichloromethane under ice cooling. The reaction mixture is refluxed for 8 hours, poured on ice water, acidified with 2 n of hydrochloric acid and shaken out with dichloromethane. The organic phase is dried on sodium sulfate, concentrated by evaporation and the residue is chromatographed on silica gel with hexane/ethyl acetate=8/2. 3.5g of 3-(4-hydroxy-3-methoxybenzoyl)-benzoic acid methyl ester of melting point of 133°-134° C. is obtained.

reactant | aluminum chloride | 14.8g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | veratrole | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | isophthalic acid monomethyl ester chloride | 7.34g | [Cl-].COC(C1=CC(C(=O)O)=CC=C1)=O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | 3-(4-hydroxy-3-methoxybenzoyl)-benzoic acid methyl ester | 3.5g | COC(C1=CC(=CC=C1)C(C1=CC(=C(C=C1)O)OC)=O)=O | C16H14O5
